US05155108
To a solution of 5.0 g of 3-hydroxy-2,2-dimethyl-1-propanesulfonamide in 18 ml of pyridine was added 6.3 g of p-toluenesulfonyl chloride under ice-cooling and stirring. After 2 hours, the reaction mixture was poured to a mixture of 300 ml of chloroform and 100 ml of ice-water. The separated chloroform layer was washed in turn with diluted hydrochloric acid and water, dried over anhydrous magnesium sulfate and to obtain 8.5 g of 3-tosyloxy-2,2-dimethyl-1-propanesulfonamide.

reactant | 3-hydroxy-2,2-dimethyl-1-propanesulfonamide | 5.0 g | OCC(CS(=O)(=O)N)(C)C | C5H13NO3S
reactant | p-toluenesulfonyl chloride | 6.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
product | 3-tosyloxy-2,2-dimethyl-1-propanesulfonamide | 8.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC(CS(=O)(=O)N)(C)C | C12H19NO5S2
